* source PS1
X_U1A         N00169 N00174 XOR $G_DPWR $G_DGND 74LS02 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U1B         N00943 N00908 N00169 $G_DPWR $G_DGND 74LS02 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U1C         N00901 NOT N00174 $G_DPWR $G_DGND 74LS02 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U1D         N00450 N00450 OR $G_DPWR $G_DGND 74LS02 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2A         N00901 NOT N00450 $G_DPWR $G_DGND 74LS02 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2B         N00943 N00908 AND $G_DPWR $G_DGND 74LS02 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2C         NOT NOT N00908 $G_DPWR $G_DGND 74LS02 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2D         N00901 N00901 N00943 $G_DPWR $G_DGND 74LS02 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_A         STIM(1,0) $G_DPWR $G_DGND NOT IO_STM STIMULUS=A
U_B         STIM(1,0) $G_DPWR $G_DGND N00901 IO_STM STIMULUS=B
