* source PRACTICA4
.EXTERNAL OUTPUT S3
.EXTERNAL OUTPUT S2
.EXTERNAL OUTPUT S1
.EXTERNAL OUTPUT S0
X_SumaCom_Semisum_U2A         A0 N01110 SumaCom_N00170 $G_DPWR $G_DGND 74LS86A
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_SumaCom_Semisum_U1A         N01110 A0 SumaCom_N00250 $G_DPWR $G_DGND 74LS08
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_SumaCom_Semisum1_U2A         SumaCom_N00170 M S0 $G_DPWR $G_DGND 74LS86A
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_SumaCom_Semisum1_U1A         M SumaCom_N00170 SumaCom_N00337 $G_DPWR $G_DGND
+  74LS08 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_SumaCom_U1A         SumaCom_N00337 SumaCom_N00250 N00964 $G_DPWR $G_DGND
+  74LS32 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_SumaCom1_U1A         SumaCom1_N00337 SumaCom1_N00250 N00939 $G_DPWR $G_DGND
+  74LS32 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_SumaCom1_Semisum1_U2A         SumaCom1_N00170 N00964 S1 $G_DPWR $G_DGND
+  74LS86A PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_SumaCom1_Semisum1_U1A         N00964 SumaCom1_N00170 SumaCom1_N00337 $G_DPWR
+  $G_DGND 74LS08 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_SumaCom1_Semisum_U2A         A1 N01230 SumaCom1_N00170 $G_DPWR $G_DGND
+  74LS86A PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_SumaCom1_Semisum_U1A         N01230 A1 SumaCom1_N00250 $G_DPWR $G_DGND 74LS08
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_SumaCom2_U1A         SumaCom2_N00337 SumaCom2_N00250 N00908 $G_DPWR $G_DGND
+  74LS32 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_SumaCom2_Semisum1_U2A         SumaCom2_N00170 N00939 S2 $G_DPWR $G_DGND
+  74LS86A PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_SumaCom2_Semisum1_U1A         N00939 SumaCom2_N00170 SumaCom2_N00337 $G_DPWR
+  $G_DGND 74LS08 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_SumaCom2_Semisum_U2A         A2 N01472 SumaCom2_N00170 $G_DPWR $G_DGND
+  74LS86A PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_SumaCom2_Semisum_U1A         N01472 A2 SumaCom2_N00250 $G_DPWR $G_DGND 74LS08
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_SumaCom3_U1A         SumaCom3_N00337 SumaCom3_N00250 C4 $G_DPWR $G_DGND
+  74LS32 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_SumaCom3_Semisum1_U2A         SumaCom3_N00170 N00908 S3 $G_DPWR $G_DGND
+  74LS86A PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_SumaCom3_Semisum1_U1A         N00908 SumaCom3_N00170 SumaCom3_N00337 $G_DPWR
+  $G_DGND 74LS08 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_SumaCom3_Semisum_U2A         A3 N00555 SumaCom3_N00170 $G_DPWR $G_DGND
+  74LS86A PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_SumaCom3_Semisum_U1A         N00555 A3 SumaCom3_N00250 $G_DPWR $G_DGND 74LS08
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_DSTM1         STIM(4,0) $G_DPWR $G_DGND A3 A2 A1 A0 IO_STM STIMULUS=A
U_DSTM2         STIM(4,0) $G_DPWR $G_DGND B3 B2 B1 B0 IO_STM STIMULUS=B
U_DSTM3         STIM(1,0) $G_DPWR $G_DGND M IO_STM STIMULUS=M
X_U1A         B3 M N00555 $G_DPWR $G_DGND 74LS86A PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U1B         B0 M N01110 $G_DPWR $G_DGND 74LS86A PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U1C         B1 M N01230 $G_DPWR $G_DGND 74LS86A PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U1D         B2 M N01472 $G_DPWR $G_DGND 74LS86A PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
