* source S3
U_BCD[3:0]         STIM(4,0) $G_DPWR $G_DGND BCD3 BCD2 BCD1 BCD0 IO_STM
+  STIMULUS=BCD
X_U4A         B3 B2 N01615 $G_DPWR $G_DGND 74LS32 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U4B         B1 B3 N01622 $G_DPWR $G_DGND 74LS32 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U4C         B3 B0 N01640 $G_DPWR $G_DGND 74LS32 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U6B         B2 B1 N01633 $G_DPWR $G_DGND 74LS32 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U5B         B3 N01206 N01629 $G_DPWR $G_DGND 74LS32 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U3A         B1 N01206 $G_DPWR $G_DGND 74LS04 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U7A         N01615 N01622 X $G_DPWR $G_DGND 74LS08 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U8A         N01640 N01629 N01633 Y $G_DPWR $G_DGND 74LS11 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
