* source S7
U_A         STIM(1,0) $G_DPWR $G_DGND A IO_STM STIMULUS=A
U_CLK         STIM(1,0) $G_DPWR $G_DGND CLK IO_STM STIMULUS=CLK
U_Reset         STIM(1,0) $G_DPWR $G_DGND RESET IO_STM STIMULUS=RESET
U_UNO         STIM(1,0) $G_DPWR $G_DGND UNO IO_STM STIMULUS=UNO
X_U7A         A N00974 $G_DPWR $G_DGND 74LS04 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U8A         A CUENTA0 N01455 $G_DPWR $G_DGND 74LS08 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U8B         N00974 CUENTA1 N01847 $G_DPWR $G_DGND 74LS08 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U8C         CUENTA1 A N01491 $G_DPWR $G_DGND 74LS08 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U9A         A N01661 N01768 N01854 $G_DPWR $G_DGND 74LS11 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U9B         N00974 N01661 N01768 N01467 $G_DPWR $G_DGND 74LS11 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U10A         N01847 N01854 N01584 $G_DPWR $G_DGND 74LS32 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U10B         N01455 N01467 N01498 $G_DPWR $G_DGND 74LS32 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U10C         N01491 N01467 C $G_DPWR $G_DGND 74LS32 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U11A         RESET N01584 CLK UNO CUENTA0 N01768 $G_DPWR $G_DGND 74LS74A
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U11B         RESET N01498 CLK UNO CUENTA1 N01661 $G_DPWR $G_DGND 74LS74A
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
